US06727264B1
N-(3-{1-[3-(4-BROMOPHENYL)-3-(4-METHOXYPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using N-(3-{1-[3-(4-bromophenyl)-3-hydroxypropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 4-methoxyphenol: ESMS m/e: 565.0 (M+H)+.

reactant | N-(3-{1-[3-(4-bromophenyl)-3-hydroxypropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | BrC1=CC=C(C=C1)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)O | C24H31BrN2O2
reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
product | N-(3-{1-[3-(4-BROMOPHENYL)-3-(4-METHOXYPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | BrC1=CC=C(C=C1)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)OC1=CC=C(C=C1)OC | C31H37BrN2O3
